US08372864B2
68 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-methyl-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide are dissolved, under an argon atmosphere, in 5 cm3 of ethyl ether. 0.2 cm3 of a 4N solution of hydrochloric acid in dioxane is added, while stirring, at a temperature of 20° C. The reaction mixture is concentrated to dryness under reduced pressure (5 kPa). The residue is taken up with 10 cm3 of ethyl ether, concentrated to dryness under reduced pressure (5 kPa), and dried under vacuum at a temperature of 35° C. 69 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-methyl-1-oxo-2-(1-propyl butyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride (1:1) are obtained in the form of a white powder.

reactant | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-methyl-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide | 68 mg | FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=C(C2)C)=O)C(CCC)CCC)C=C(C1)F | C38H44F5N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl ether | 5 cm3 | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-methyl-1-oxo-2-(1-propyl butyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride | 69 mg | Cl.FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=C(C2)C)=O)C(CCC)CCC)C=C(C1)F | InChI=1S/C38H44F5N3O3.ClH/c1-4-7-29(8-5-2)46-14-11-30-31(15-23(3)16-32(30)36(46)49)35(48)45-33(19-24-17-27(39)21-28(40)18-24)34(47)22-44-37(12-13-37)25-9-6-10-26(20-25)38(41,42)43;/h6,9-10,15-18,20-21,29,33-34,44,47H,4-5,7-8,11-14,19,22H2,1-3H3,(H,45,48);1H/t33-,34+;/m0./s1
